US06372764B1
1-(1-Naphthoyl)-3-(RS)-(4-(4-fluorophenyl)piperidinylmethyl)-4-(SR)-(1-methoxyethyl)pyrrolidine
A solution of 0.026 g (0.057 mmol) of 1-(1-naphthoyl)-3-(RS)-(4-(4-fluorophenyl)piperidinylmethyl)-4-(SR)-(1-hydroxyethyl)pyrrolidine (diastereomer 2), 0.012 mg (0.23 mmol) of KOH and 0.0042 mL (0.068 mmol) of methyliodide in 1 mL of DMSO was stirred at rt for 30 min. The reaction mixture was diluted with ether and washed with sat'd NaHCO3 and NaCl solutions. The organic fraction was dried over Na2SO4, filtered and the filtrate was concentrated and purified by chromatography (silica, hexanes:ethylacetate:(2N NH3 in MeOH), 10:10:1) to give the title compound. 1H NMR (CDCl3) δ (key peaks) 7.88-7.91(m, 3H), 7.45-7.55 (m, 4H), 7.20 and 7.10 (d of d, 2H, J=5.5, 8.5 Hz), 7.00 and 6.95 (t, 2H, J=9.0 Hz), 3.40 and 3.24 (s, 3H) 1.25 and 1.02 (d, 3H, J=6.5 Hz), Mass Spectrum (ESI) m/e=475 (M+1).

reactant | 1-(1-naphthoyl)-3-(RS)-(4-(4-fluorophenyl)piperidinylmethyl)-4-(SR)-(1-hydroxyethyl)pyrrolidine | 0.057 mmol, 0.026 g | C1(=CC=CC2=CC=CC=C12)C(=O)N1CC(C(C1)C(C)O)CN1CCC(CC1)C1=CC=C(C=C1)F | C29H33FN2O2
reactant | KOH | 0.23 mmol, 0.012 mg | [OH-].[K+]
reactant | methyliodide | 0.068 mmol, 0.0042 mL | CI | CH3I
solvent | DMSO | 1 mL | CS(=O)C | C2H6OS
solvent | ether | CCOCC | C4H10O
product | 1-(1-Naphthoyl)-3-(RS)-(4-(4-fluorophenyl)piperidinylmethyl)-4-(SR)-(1-methoxyethyl)pyrrolidine | C1(=CC=CC2=CC=CC=C12)C(=O)N1CC(C(C1)C(C)OC)CN1CCC(CC1)C1=CC=C(C=C1)F | C30H35FN2O2
